US07439354B2
Preparation of 2,6-dimethyl-7a-undecyl-tetrahydro-2H-oxazolo[2,3-b]oxazole.
To a 1 liter stirred reactor, equipped with a distillation column, condenser, and graduated receiver, the following constituents were added: 164.9 g of diisopropanol amine (DIPA, ChemCentral, Milwaukee, New Berlin, Wis.) and 201.5 g (98%) of lauric acid (Aldrich Chemical Co., Milwaukee, Wis.). The contents were heated to 180° C. under a nitrogen blanket. After 80 minutes, 17 ml of water had come overhead (1 equivalent). The batch temperature was held at 180° C. while the pressure was dropped to 320 Pa. The batch temperature was then raised to 195° C. During the pressure reduction and heat-up, unreacted DIPA (60 g) came overhead. A total of 199.4 g of amide acetal derived from lauric acid was then collected while the temperature was raised from 195 to 222° C. at a pressure of 320-466 Pa. This represents a 66.7% conversion of the lauric acid. Gas chromatography (GC) was used for the determination of diisopropanol amine (DIPA) and amide acetal content in the liquid samples. Liquid samples from the reactor and from the overhead receiver were analyzed for the presence of DIPA and amide acetal product using an internal standard GC method. The GC was calibrated using pure DIPA and amide acetal. Samples were removed, weighed, diluted with known amount of internal standard in methylene chloride, and then injected into the GC.

reactant | diisopropanol amine | 164.9 g | CC(CNCC(C)O)O | C6H15NO2
reactant | lauric acid | 201.5 g | C(CCCCCCCCCCC)(=O)O | C12H24O2
reactant | DIPA | 60 g | CC(CNCC(C)O)O | C6H15NO2
solvent | water | 17 ml | O | H2O
product | 2,6-dimethyl-7a-undecyl-tetrahydro-2H-oxazolo[2,3-b]oxazole | CC1CN2C(OC(C2)C)(O1)CCCCCCCCCCC | C18H35NO2
